US04997843
(b) N,N-dimethyl-2-allylhexadecanamide
To a solution of n-butyl lithium (hexane, 44 mmol) in 120 mL of anhydrous tetrahydrofuran at 0° C., under nitrogen atmosphere it was added 6.2 mL (44 mmol) of diisopropylamine. After 5 min., 10 g (35 mmol) of N,N-dimethylhexadecanamide was added dropwise and the solution was stirred for 1 h at the same temperature. To the solution 3.7 mL (44 mmol) of allyl bromide were added and the mixture was stirred at room temperature for 12 h. Afterwards the solution was poured on water and the resulting mixture was acidified with 12 N HCl, and extracted twice with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate and after evaporation of the solvent it was obtained 10.94 g of an oil that was purified by column chromatography (silica gel, hexane: ethyl acetate 15%). In that way, 10.2 g of a colorless oil was obtained (85% yield).

reactant | n-butyl lithium | 44 mmol | C(CCC)[Li]
reactant | diisopropylamine | 44 mmol, 6.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | N,N-dimethylhexadecanamide | 35 mmol, 10 g | CN(C(CCCCCCCCCCCCCCC)=O)C | C18H37NO
reactant | allyl bromide | 44 mmol, 3.7 mL | C(C=C)Br | C3H5Br
reactant | HCl | 12 N | Cl | ClH
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | N,N-dimethyl-2-allylhexadecanamide | 10.94 g | CN(C(C(CCCCCCCCCCCCCC)CC=C)=O)C | C21H41NO
